US04038306
N-TERTIARY BUTOXYCARBONYL-S-ACETAMIDOMETHYLCYSTEINE
22.8 grams (0.1 mole) of S-acetamidomethylcysteine hydrochloride are dissolved in 250 ml. of 50% dioxane (peroxide-free) in a 500 ml. 3-neck flask equipped with a mechanical stirrer and condenser. 12 grams of magnesium oxide (0.3 mole) are added, and the mixture is stirred at room temperature for 30 minutes. 15.7 grams (0.11 mole) of redistilled t-butoxycarbonylazide are added, and the mixture is stirred for 20 hours in an oil bath at 45° C. The reaction mixture is then cooled to room temperature, and 1 liter of water is added. The aqueous mixture is washed with 2 × 250 ml. of ethyl acetate, cooled in an ice bath, and acidified to pH 3 with 50% citric acid. The acidic solution is then saturated with sodium chloride and extracted with ethyl acetate. The extracts are washed twice with 200 ml. of saturated sodium chloride solution, dried over anhydrous sodium sulfate, filtered, and evaporated in vacuo to yield an amorphous solid. The solid is dissolved in warm ethyl acetate, and 2 volumes of benzene are added. Upon standing at room temperature, the product crystallizes and, after filtration, is washed with benzene and dried in vacuo. A second and third crop are obtained by adding benzene to the filtrates and seeding. After drying in vacuo, 11 grams of N-t-butoxycarbonyl-S-acetamido-methylcysteine, m.p. 110° - 112° C., are obtained.

reactant | S-acetamidomethylcysteine hydrochloride | 0.1 mole, 22.8 grams | Cl.C(C)(=O)NCSC[C@H](N)C(=O)O
reactant | dioxane | O1CCOCC1 | C4H8O2
reactant | magnesium oxide | 0.3 mole, 12 grams | [O-2].[Mg+2]
reactant | t-butoxycarbonylazide | 0.11 mole, 15.7 grams | C(C)(C)(C)OC(=O)N=[N+]=[N-] | C5H9N3O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | water | 1 liter | O | H2O
product | N-TERTIARY BUTOXYCARBONYL-S-ACETAMIDOMETHYLCYSTEINE | C(C)(C)(C)OC(=O)N[C@@H](CSCNC(C)=O)C(=O)O | C11H20N2O5S
